### PR TITLE
[Dijkstra] Add EntitiesEnv and GovCertEnv

### PR DESCRIPTION
**Pull request by carlostome**
# Description

# Checklist

- [ ] Commit sequence broadly makes sense and commits have useful messages
- [ ] Any semantic changes to the specifications are documented in `CHANGELOG.md`
- [ ] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [ ] Self-reviewed the diff

### CODE REVIEW

File: src/Ledger/Dijkstra/Foreign/Entities.agda [hunk 1]
```diff
@@ -12,12 +12,31 @@ open import Ledger.Core.Foreign.Address
...
+    • fieldPrefix "ce"
+  Conv-EntitiesEnv' = autoConvert EntitiesEnv'
+
+  mkEntitiesEnv' : Convertible EntitiesEnv EntitiesEnv'
+  mkEntitiesEnv' = λ where
+    .to   ee → let module ee = EntitiesEnv ee in record { epoch = ee.epoch ; pp = ee.pp ; votes = to ee.votes ; withdrawals = ee.withdrawals ; coldCredentials = ee.coldCredentials ; directDeposits = ee.directDeposits }
+    .from ee → let module ee = EntitiesEnv' ee in record { epoch = ee.epoch ; pp = ee.pp ; votes = from ee.votes ; withdrawals = ee.withdrawals ; coldCredentials = ee.coldCredentials ; directDeposits = ee.directDeposits }
+
+  HsTy-EntitiesEnv = mkHsType EntitiesEnv (HsType EntitiesEnv')
+  Conv-EntitiesEnv = mkEntitiesEnv' ⨾ Conv-EntitiesEnv'
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Foreign/Entities.agda:43]: :red_circle: The `entities-step` function and its `COMPILE GHC` pragma were deleted here, but `build-tools/static/hs-src/src/MAlonzo/Code/Ledger/Dijkstra/Foreign/API.hs:26-27` still re-exports `entitiesStep`, so the generated `cardano-ledger-executable-spec` package will no longer compile (PR CI never runs GHC on the generated code — the `hs` target uses `--ghc-dont-call-ghc`).

Since the whole `EntitiesEnv'` wrapper exists to make `EntitiesEnv` FFI-convertible, I assume the intent was to re-export the step with the new env type:

```suggestion
  HsTy-EntitiesEnv = mkHsType EntitiesEnv (HsType EntitiesEnv')
  Conv-EntitiesEnv = mkEntitiesEnv' ⨾ Conv-EntitiesEnv'

entities-step : HsType (EntitiesEnv → CertState → List DCert → ComputationResult String CertState)
entities-step = to (compute Computational-ENTITIES)

{-# COMPILE GHC entities-step as entitiesStep #-}
```

Note this also needs `open import Ledger.Dijkstra.Foreign.Cert` restored (see comment above) — that's where `HsTy-CertState` lives.

File: src/Ledger/Dijkstra/Foreign/Entities.agda [hunk 2]
```diff
@@ -12,12 +12,31 @@ open import Ledger.Core.Foreign.Address
 open import Ledger.Dijkstra.Foreign.HSStructures
 open import Ledger.Dijkstra.Foreign.Gov.Core
 open import Ledger.Dijkstra.Foreign.PParams
-open import Ledger.Dijkstra.Foreign.Cert
+open import Ledger.Dijkstra.Specification.Entities DummyGovStructure
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Foreign/Entities.agda:16]: To restore `entities-step` (see comment below), the `Foreign.Cert` import needs to come back — it provides `HsTy-CertState`:

```suggestion
open import Ledger.Dijkstra.Foreign.Cert
open import Ledger.Dijkstra.Specification.Entities DummyGovStructure
```

File: src/Ledger/Dijkstra/Foreign/Entities.agda [hunk 3]
```diff
@@ -12,12 +12,31 @@ open import Ledger.Core.Foreign.Address
...
 
-entities-step : HsType (CertEnv → CertState → List DCert → ComputationResult String CertState)
-entities-step = to (compute Computational-ENTITIES)
+record EntitiesEnv' : Type where
+  field
+    epoch           : Epoch
+    pp              : PParams
+    votes           : List GovVote'
+    withdrawals     : RewardAddress ⇀ Coin
+    coldCredentials : ℙ Credential
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Foreign/Entities.agda]: `EntitiesEnv'` orders these two fields opposite to the spec's `EntitiesEnv` (`… votes, coldCredentials, withdrawals …`). `autoConvert` matches by name, so this is *correct*, but the positional order of the Haskell `MkEntitiesEnv` constructor will disagree with the Agda spec's `⟦_⟧` order — a foot-gun for readers comparing the two:

```suggestion
    coldCredentials : ℙ Credential
    withdrawals     : RewardAddress ⇀ Coin
```

File: src/Ledger/Dijkstra/Foreign/Entities.agda [hunk 4]
```diff
@@ -12,12 +12,31 @@ open import Ledger.Core.Foreign.Address
...
+    directDeposits  : DirectDeposits
 
-{-# COMPILE GHC entities-step as entitiesStep #-}
+instance
+  HsTy-EntitiesEnv' = autoHsType EntitiesEnv'
+    ⊣ withConstructor "MkEntitiesEnv"
+    • withName "EntitiesEnv"
+    • fieldPrefix "ce"
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Foreign/Entities.agda]: Stale copy-paste from the old `CertEnv'`: this generates `ceEpoch`, `ceWithdrawals`, … on a Haskell type named `EntitiesEnv`. It doesn't buy backward compatibility either, since the field names changed anyway (`ceWdrls` → `ceWithdrawals`, `ceColdCreds` → `ceColdCredentials`):

```suggestion
    • fieldPrefix "ee"
```

File: src/Ledger/Dijkstra/Specification/Certs.lagda.md [hunk 5]
```diff
@@ -79,15 +76,11 @@ cwitness (regdrep c _ _)     = just c
...
 record CertEnv : Type where
   field
-    epoch           : Epoch
+    e               : Epoch
     pp              : PParams
-    votes           : List GovVote
-    wdrls           : Withdrawals
-    coldCreds       : ℙ Credential
-    directDeposits  : DirectDeposits
+    coldCredentials : ℙ Credential
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs.lagda.md]: Why rename `epoch` to `e`? Conway's `CertEnv` and the new `EntitiesEnv` both call this field `epoch`, and the single letter leaks into the generated Haskell as the cryptic accessor `ceE` (renaming back also restores the old `ceEpoch` name downstream). All uses go through `HasEpoch`/`⟦_⟧`, so only the instance below needs a matching tweak:

```suggestion
    epoch           : Epoch
    pp              : PParams
    coldCredentials : ℙ Credential
```

File: src/Ledger/Dijkstra/Specification/Certs.lagda.md [hunk 6]
```diff
@@ -123,6 +116,15 @@ record DelegEnv : Type where
...
     delegatees    : ℙ Credential
+
+PoolEnv : Type
+PoolEnv = PParams
+
+record GovCertEnv : Type where
+  field
+    e  : Epoch
+    pp : PParams
+    coldCredentials : ℙ Credential
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs.lagda.md]: Same as `CertEnv`: `epoch` over `e` for consistency (and `gceEpoch` instead of `gceE` in the generated Haskell), plus column alignment with `coldCredentials`:

```suggestion
    epoch           : Epoch
    pp              : PParams
    coldCredentials : ℙ Credential
```

File: src/Ledger/Dijkstra/Specification/Certs.lagda.md [hunk 7]
```diff
@@ -249,12 +255,19 @@ instance
   HasStakeDelegs-CertState : HasStakeDelegs CertState
   HasStakeDelegs-CertState .StakeDelegsOf = StakeDelegsOf ∘ DStateOf
 
-  unquoteDecl HasCast-CertEnv HasCast-DState HasCast-PState HasCast-GState HasCast-CertState HasCast-DelegEnv = derive-HasCast
+  HasEpoch-GovCertEnv : HasEpoch GovCertEnv
+  HasEpoch-GovCertEnv .EpochOf = GovCertEnv.e
+
+  HasEpoch-CertEnv : HasEpoch CertEnv
+  HasEpoch-CertEnv .EpochOf = CertEnv.e
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs.lagda.md]: Companion to the `e` → `epoch` rename above — these are the only two places that reference the field directly:

```suggestion
  HasEpoch-GovCertEnv : HasEpoch GovCertEnv
  HasEpoch-GovCertEnv .EpochOf = GovCertEnv.epoch

  HasEpoch-CertEnv : HasEpoch CertEnv
  HasEpoch-CertEnv .EpochOf = CertEnv.epoch
```

File: src/Ledger/Dijkstra/Specification/Certs.lagda.md [hunk 8]
```diff
@@ -460,24 +471,24 @@ data _⊢_⇀⦇_,POOL⦈_ : PoolEnv → PState → DCert → PState → Type wh
...
       ────────────────────────────────
-      ⟦ e , pp , vs , wdrls , cc , dd ⟧ ⊢ ⟦ dReps , ccKeys , deposits ⟧ ⇀⦇ regdrep c d an ,GOVCERT⦈ ⟦ ❴ c , e + pp .drepActivity ❵ ∪ˡ dReps , ccKeys , deposits ∪⁺ ❴ c , d ❵ ⟧
+      ⟦ e , pp , cc ⟧ ⊢ ⟦ dReps , ccKeys , deposits ⟧ ⇀⦇ regdrep c d an ,GOVCERT⦈ ⟦ ❴ c , e + pp .drepActivity ❵ ∪ˡ dReps , ccKeys , deposits ∪⁺ ❴ c , d ❵ ⟧
 
   GOVCERT-deregdrep :
     ∙ c ∈ dom dReps
     ∙ (c , d) ∈ deposits
       ────────────────────────────────
-      ⟦ e , pp , vs , wdrls , cc , dd ⟧ ⊢ ⟦ dReps , ccKeys , deposits ⟧ ⇀⦇ deregdrep c d ,GOVCERT⦈ ⟦ dReps ∣ ❴ c ❵ ᶜ , ccKeys , deposits ∣ ❴ c ❵ ᶜ ⟧
+      ⟦ e , pp  , cc ⟧ ⊢ ⟦ dReps , ccKeys , deposits ⟧ ⇀⦇ deregdrep c d ,GOVCERT⦈ ⟦ dReps ∣ ❴ c ❵ ᶜ , ccKeys , deposits ∣ ❴ c ❵ ᶜ ⟧
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs.lagda.md]: Nit — stray double space after `pp`:

```suggestion
      ⟦ e , pp , cc ⟧ ⊢ ⟦ dReps , ccKeys , deposits ⟧ ⇀⦇ deregdrep c d ,GOVCERT⦈ ⟦ dReps ∣ ❴ c ❵ ᶜ , ccKeys , deposits ∣ ❴ c ❵ ᶜ ⟧
```

File: src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md [hunk 9]
```diff
@@ -109,7 +109,7 @@ instance
       (yes p) → success (-, GOVCERT-deregdrep p)
       (no ¬p)  → failure (genErrors ¬p)
   Computational-GOVCERT .computeProof ce gs (ccreghot c _) =
-    case ¿ ((c , nothing) ∉ CCHotKeysOf gs ˢ) × c ∈ CertEnv.coldCreds ce ¿ of λ where
+    case ¿ ((c , nothing) ∉ CCHotKeysOf gs ˢ) × c ∈ (ColdCredentialsOf ce) ¿ of λ where
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md]: Nit — redundant parentheses:

```suggestion
    case ¿ ((c , nothing) ∉ CCHotKeysOf gs ˢ) × c ∈ ColdCredentialsOf ce ¿ of λ where
```

File: src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md [hunk 10]
```diff
@@ -121,13 +121,13 @@ instance
   Computational-GOVCERT .completeness _ gs (deregdrep c d) _ (GOVCERT-deregdrep p)
     rewrite dec-yes ¿ c ∈ dom (DRepsOf gs) × (c , d) ∈ (DepositsOf gs) ¿ p .proj₂ = refl
   Computational-GOVCERT .completeness ce gs (ccreghot c _) _ (GOVCERT-ccreghot p)
-    rewrite dec-yes ¿ (c , nothing) ∉ CCHotKeysOf gs ˢ × c ∈ CertEnv.coldCreds ce ¿ p .proj₂ = refl
+    rewrite dec-yes ¿ (c , nothing) ∉ CCHotKeysOf gs ˢ × c ∈ (ColdCredentialsOf ce) ¿ p .proj₂ = refl
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md]: Nit — same redundant parentheses as above:

```suggestion
    rewrite dec-yes ¿ (c , nothing) ∉ CCHotKeysOf gs ˢ × c ∈ ColdCredentialsOf ce ¿ p .proj₂ = refl
```

File: src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md [hunk 11]
```diff
@@ -121,13 +121,13 @@ instance
...
 
   Computational-CERT : Computational _⊢_⇀⦇_,CERT⦈_ String
   Computational-CERT .computeProof ce cs dCert
     with computeProof ⟦ PParamsOf ce , PoolsOf cs , dom (DRepsOf cs) ⟧ (DStateOf cs) dCert
          | computeProof (PParamsOf ce) (PStateOf cs) dCert
-         | computeProof ce (GStateOf cs) dCert
+         | computeProof ⟦ EpochOf ce , PParamsOf ce , ColdCredentialsOf ce ⟧ (GStateOf cs) dCert
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Specification/Certs/Properties/Computational.lagda.md:103]: Optional: `⟦ EpochOf ce , PParamsOf ce , ColdCredentialsOf ce ⟧` is now spelled out at five call sites in this module (plus the `CERT-gov` rule itself). A small helper next to the record definitions, e.g.

```agda
govCertEnvOf : CertEnv → GovCertEnv
govCertEnvOf Γ = ⟦ EpochOf Γ , PParamsOf Γ , ColdCredentialsOf Γ ⟧
```

would DRY these up and make the `CertEnv → GovCertEnv` projection a named, documented thing.

File: src/Ledger/Dijkstra/Foreign/Certs.agda [hunk 12]
```diff
@@ -49,32 +54,11 @@ instance
...
-    wdrls          : RewardAddress ⇀ Coin
-    coldCreds      : ℙ Credential
-    directDeposits : DirectDeposits
-
-instance
-  HsTy-CertEnv' = autoHsType CertEnv'
+  HsTy-CertEnv = autoHsType CertEnv
     ⊣ withConstructor "MkCertEnv"
     • withName "CertEnv"
     • fieldPrefix "ce"
```
Comment (williamdemeo) [inline src/Ledger/Dijkstra/Foreign/Certs.agda:59]: Nit — `withName "CertEnv"` is now a no-op (it was needed when the source type was `CertEnv'`; `autoHsType CertEnv` already produces that name):

```suggestion
    ⊣ withConstructor "MkCertEnv"
    • fieldPrefix "ce"
```

**Review by williamdemeo — CHANGES_REQUESTED** [review]
## Overview

This PR splits the previously monolithic Dijkstra `CertEnv` into three purpose-fitted environments — `EntitiesEnv` (epoch, pp, votes, coldCredentials, withdrawals, directDeposits) for `ENTITIES`, a slimmed `CertEnv` (e, pp, coldCredentials) for `CERT`/`CERTS`, and a new `GovCertEnv` for `GOVCERT` — adds a `HasColdCredentials` class, threads the Computational proofs through the new envs, and reworks the FFI layer accordingly.

This is a genuine improvement: `GOVCERT`/`CERT` no longer drag around `votes`/`wdrls`/`directDeposits` they never used, and the env shapes now say what each rule actually depends on. All CI checks pass. Most of my comments are inline; the two below concern files not touched by this diff.

## :red_circle: `entitiesStep` FFI export deleted, but the static Haskell API still re-exports it

This PR removes the `entities-step` function and its `{-# COMPILE GHC entities-step as entitiesStep #-}` pragma from `Foreign/Entities.agda`, but the static re-export module still imports it:

https://github.com/IntersectMBO/formal-ledger-specifications/blob/fc2fa0b659fef5249f93729d163085f299babcdb/build-tools/static/hs-src/src/MAlonzo/Code/Ledger/Dijkstra/Foreign/API.hs#L26-L27

Without the pragma, MAlonzo emits only mangled internal names, so this import **will not compile**. CI doesn't catch it because the `hs` shake target runs Agda with `--ghc-dont-call-ghc` and only assembles the package (`build-tools/shake/src/Main.hs:110`) — GHC never compiles the generated code in this repo. The break surfaces downstream when cardano-ledger's conformance tests build `cardano-ledger-executable-spec`.

Given the commit is titled "Fix foreign interface for ENTITIES" and the `EntitiesEnv'` wrapper exists precisely to make `EntitiesEnv` FFI-convertible, I assume this was an accidental deletion — see the inline suggestion in `Foreign/Entities.agda` for restoring it with the new env type. (If dropping `entitiesStep` is intentional, the right fix is instead to remove it from `API.hs`.)

## :yellow_circle: `API.hs` is out of sync with the new interface

Even with `entitiesStep` restored, `build-tools/static/hs-src/src/MAlonzo/Code/Ledger/Dijkstra/Foreign/API.hs` needs updating:

- `govCertStep` now takes `GovCertEnv`, but `GovCertEnv(..)` is not in the export list — downstream users can call the function but can't name or construct its argument without reaching into internal MAlonzo modules. `EntitiesEnv(..)` is likewise missing.
- Heads-up rather than a defect: the exported `CertEnv(..)` keeps its name but its Haskell fields change from `ceEpoch/cePp/ceVotes/ceWdrls/ceColdCreds/ceDirectDeposits` to `ceE/cePp/ceColdCredentials` — breaking for any conformance-test code constructing it. Expected for in-flight Dijkstra work, but worth coordinating with the consumers.

## :yellow_circle: CHANGELOG

`CHANGELOG.md` has a "Dijkstra spec / WIP" section that records exactly this kind of change — this PR should add an entry (it's also an unchecked box on the PR checklist).

## Verdict

Requesting changes for the `entitiesStep` break, since it's invisible to this repo's CI and would land as a compile failure on the cardano-ledger side. Everything else inline is naming/style-level and mostly comes with suggested fixes.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

**Review by williamdemeo — APPROVED** [review]
Nice work Carlos!  The restored `entities-step` and the applied suggestions all look good.

Approving with one remaining loose end from the first review (could be a follow-up commit or PR if/as you see fit):

**`API.hs` doesn't export the new env types**

In `build-tools/static/hs-src/src/MAlonzo/Code/Ledger/Dijkstra/Foreign/API.hs`, `govCertStep` now takes `GovCertEnv` and `entitiesStep` takes `EntitiesEnv`, but neither type is in the export list, so downstream consumers (e.g. the cardano-ledger conformance tests) can call the step functions but can't name or construct their env arguments without reaching into the internal MAlonzo modules directly.  The old code didn't have this gap because both steps took `CertEnv`, which is exported.

The fix suggested by Claude:

```haskell
import MAlonzo.Code.Ledger.Dijkstra.Foreign.Certs as X
  ( StakePoolParams(..), PState(..), DelegEnv(..), CertEnv(..), GovCertEnv(..), DState(..), DCert(..), GState(..) , delegStep, govCertStep, poolStep)
import MAlonzo.Code.Ledger.Dijkstra.Foreign.Entities as X (EntitiesEnv(..), entitiesStep)
```

`GovCertEnv`/`MkGovCertEnv` is generated into `Foreign.Certs` by the new `HsTy-GovCertEnv`, and `EntitiesEnv`/`MkEntitiesEnv` into `Foreign.Entities` by `HsTy-EntitiesEnv'` (same pattern as the old `CertEnv'` re-export, so both names exist to be re-exported).
